Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
weakness, hypoxia secondary to superior vena cava syndrome
 
Major Surgical or Invasive Procedure:
intubation ___
Left femoral line placement ___
R femoral line placement
Left chest tube placement
Radiation Therapy
Left PICC placement
 
History of Present Illness:
___ h/o COPD, CAD s/p CABG, pAfib on xarelto, CKD, HTN, HLD, L 
supraclaviular mass dx as neuroendocrine tumor, who presented to 
___ on ___ for dehydration and failure to thrive. He did 
report scapular pain and dyspnea on exertion x 4 weeks starting 
about 2 months prior to presentation. Outpatient CT showed 
mediastinal lymphadenopathy and a supraclavicular mass. Biopsy 
on ___ showed poorly differentiated neuroendocrine tumor. 
Initial plan was to start chemotherapy of etoposide and 
carbaplantiunum x 3 days, as well as additioning to PET scan to 
___, however patient was unable to tolerate lying flat and PET 
scan was not performed. The patient was sent by his outpatient 
oncologist to ___ on ___ for failure to thrive and 
hypotension with SBPs in the ___. CT scan on ___ showed 
mediastinal adenopathy and SVC compromise and rec'd radiation 
but this was not done due to clinical decompensation. However, 
once the disease is staged, if the patient has no sign of 
metastatic disease, than chemotherapy would be curative. 

During his time at ___, his hospital course was notable for 
increased upper extremity swelling, facial swelling, and 
increased hypoxia. RUE ultrasound was negative for DVT. He had 
an increasing oxygen requirement from 2L to 7L. Given concern 
for airway compromise, the patient was transferred to the 
___ ICU on ___. Due to lack of surgical backup at 
___, the patient was not intubated at ___ and 
subsequently transferred here for further airway evaluation. 

Of note, the patient had a recent admission at ___ on 
___ for pneumonia, at which time he was treated with 
levaquin.

Vital signs at the time of transfer were 97.6 80 160/76 19 96% 
on high flow NC 8L.
Physical exam notable for facial flushing, able to speak in full 
sentences, RUE swelling.
Labs prior to transfer notable for a WBC of 12.6, H/H ___, 
platelets WNL. VBG 7.40/___. Cr 1.7.  Lactate 3.8 -> 2.2. 
Procalcitonin <0.05 (undetectable).

On arrival to the MICU, the patient was hemodynamically stable 
with pulse of 76 are blood pressure of 127/64. He had an 
increased work of breathing using his abdominal muscles. He was 
sitting upright, unable to tolerate laying flat.
 
Past Medical History:
- Coronary artery disease w/LAD stent; now s/p CABG x3:
Left internal mammary artery to left anterior descending artery,
saphenous vein graft to diagonal and obtuse marginal arteries
- Chronic obstructive pulmonary disease
- hypertension
- Congestive heart failure EF 40-45%.
- Diabetes mellitus
- Rectal Cancer ___ - treated w Chemo/ Rad followed by a 
surgical
procedure to remove residual tumor via the rectum
- Post traumatic stress disorder (pt is ___ veteran)
- atrial fibrillation
- CKD

 
Social History:
___
Family History:
FAMILY HISTORY:  No premature coronary artery disease, or 
neuroendocrine carcinomas
 
Physical Exam:
MICU ADMISSION 
============================
Vitals: T 97.7 HR 76 BP 127/64 R 20 93% 6L NC
GENERAL: fatigued, no acute distress
HEENT: Sclera anicteric, noted ___ swelling with 
rightsided facial fullness. Difficult to visualize posterior 
oropharynx
___: Regular without murmurs
RESP: Increased work of breathing with abnormal muscles. No 
stridor. RLL crackles
ABD: Non-tender, non-distended
EXT: Warm, no edema ___, Mild edema RUE
NEURO: CN II-XII intact. Strength ___ UE and ___ b/l

DEATH EXAM ___ - ___)
============================
Pupils non-reactive to light
No cardiac sounds auscultated
No respiratory effort seen
Telemetry without cardiac electrical activity
 
Pertinent Results:
ADMISSION LABS: 
==============================
___ 10:30PM   WBC-12.1*# RBC-3.67*# HGB-10.9*# HCT-33.4* 
MCV-91 MCH-29.7 MCHC-32.6 RDW-14.0 RDWSD-46.3
___ 10:30PM   PLT COUNT-359#
___ 10:30PM   GLUCOSE-190* UREA N-48* CREAT-1.6* SODIUM-138 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-23 ANION GAP-19
___ 10:51PM   freeCa-1.11*
___ 10:30PM   CALCIUM-9.0 PHOSPHATE-3.1 MAGNESIUM-2.4 URIC 
ACID-8.3*
___ 10:51PM   LACTATE-2.3*

DISCHARGE LABS: 
==============================
___ 01:02PM BLOOD WBC-9.8 RBC-3.06* Hgb-8.9* Hct-26.2* 
MCV-86 MCH-29.1 MCHC-34.0 RDW-14.6 RDWSD-44.7 Plt ___
___ 05:00AM BLOOD ___ PTT-67.6* ___
___ 11:14AM BLOOD Glucose-161* UreaN-102* Creat-2.7* 
Na-131* K-3.9 Cl-89* HCO3-28 AnGap-18
___ 05:00AM BLOOD ALT-27 AST-55* LD(LDH)-925* AlkPhos-93 
TotBili-0.4
___ 11:14AM BLOOD Calcium-7.0* Phos-6.0* Mg-1.8

MICROBIOLOGY: 
==============================
___ FLUID RECEIVED IN BLOOD CULTURE BOTTLES 
Fluid Culture in Bottles-PRELIMINARY INPATIENT 
___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-FINAL {YEAST} INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; 
RESPIRATORY CULTURE-FINAL {YEAST}; POTASSIUM HYDROXIDE 
PREPARATION-FINAL; FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT 
___ MRSA SCREEN MRSA SCREEN-FINAL {STAPH AUREUS 
COAG +} INPATIENT 
___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-FINAL 

PATHOLOGY: 
===============================
PLEURAL FLUID, LATERALITY NOT SPECIFIED:
POSITIVE FOR MALIGNANT CELLS.
Consistent with metastatic poorly-differentiated non-small cell 
neuroendocrine carcinoma.
A few small groups of and scattered single atypical epithelioid 
cells are seen on the cell block
preparation. Immunohistochemical stains show the atypical cells 
to be focally, weakly positive for
synaptophysin, and CK5/6. No immunoreactive cells for 
chromogranin are seen. The patient's prior
slides of lymph node biopsy (___) were not available for 
comparison. Drs. ___ and ___ were informed of the diagnosis via e-mail by Dr. ___ 
on ___

STUDIES: 
===============================
+ TTE ___: The left atrium is mildly dilated. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Overall left ventricular systolic function is normal 
(LVEF = 65%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve is not 
well seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. There 
is mild pulmonary artery systolic hypertension. There is a small 
pericardial effusion. There are no echocardiographic signs of 
tamponade.  
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with recently-diagnosed 
metastatic poorly-differentiated high-grade neuroendocrine 
carcinoma (likely of pulmonary origin), with bulky 
retroperitoneal/common iliac/mediastinal lymphadenopathy 
concerning for metastatic disease, who was admitted to ___ on 
___ with progressive dyspnea and hypoxemia thought to be at 
least partially related to ___ syndrome from an enlarging 
chest/neck mass, which was treated with external radiotherapy.  
Hospital course was been complicated by hypoxemic respiratory 
failure requiring prolonged mechanical intubation, sepsis ___ 
obstructive pneumonia, acute kidney injury ___ acute tubular 
necrosis, malignant pleural effusions requiring bilateral chest 
tube placement and hemodynamically unstable atrial fibrillation. 
Mr. ___ was followed closely by numerous consulting services 
(Heme-Onc, Pulmonary, Radiation Oncology, Nephrology, Infectious 
Disease). He developed progressive multi-system organ failure 
despite aggressive supportive care. Given his progressive 
decline and based on family wishes, his care was transitioned to 
a comfort focus and he was extubated with family at the bedside 
in accordance with his goals of care. He expired soon thereafter 
with official time of death being ___ @ 18:36. Autopsy was 
deferred. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Carvedilol 12.5 mg PO BID 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Fenofibrate 160 mg PO DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Rivaroxaban 15 mg PO DAILY 
9. SAXagliptin 2.5 mg oral DAILY 
10. GlipiZIDE XL 10 mg PO QAM 
11. GlipiZIDE XL 5 mg PO QPM 
12. LamoTRIgine 100 mg PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
15. QUEtiapine Fumarate 25 mg PO QHS 
16. Fentanyl Patch 75 mcg/h TD Q72H 
17. Midodrine 5 mg PO TID 

 
Discharge Medications:
patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
- Superior Vena Cava Syndrome
- Poorly differentiated neuroendocrine tumor  
- Acute Hypoxemic Respiratory failure 
- Healthcare associated pneumonia
- Malignant Pleural Effusions
- Acute tubular necrosis  
- Tumor lysis syndrome
- New onset atrial fibrillation/flutter with rapid ventricular 
response.
 
Discharge Condition:
Patient expired

 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___